US04545936
Reaction of 9-acetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione (352 mg) with pyrrolidone hydrotribromide (562 mg) was effected in tetrahydrofuran (50 ml) at room temperature for 40 hours. After removing insoluble materials by filtration, the filtrate was concentrated under reduced pressure to give 9-bromoacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione, which was used in the next step without purification.

reactant | 9-acetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 352 mg | C(C)(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)O | C20H16O6
reactant | pyrrolidone hydrotribromide | 562 mg | C1CC(=O)NC1.Br[Br-]Br
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 9-bromoacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | BrCC(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)O | C20H15BrO6
